US06884814B2
Step d) 2-Methoxy-1,4-dipropylbenzene.
To a solution of 2,5-dipropylphenol (3.50 g, 19.6 mmol) and iodomethane (3.70 mL, 58.8 mmol) in DMF (65 mL) at 0° C. was added sodium hydride (1.60 g, 39.2 mmol, 60% dispersion in oil) in two portions. The resulting mixture was stirred at 0° C. for 10 min and then at room temperature for 14 h. After being quenched with water, the mixture was extracted in hexanes (3×100 mL) with 50% saturated brine (50 mL). Flash chromatography with silica gel (100% hexanes) afforded the title compound as a colorless liquid (3.70 g, 97% yield): 1H NMR (300 MHz, CDCl3) δ 0.95 (two overlapping triplets, 6H), 1.60 (m, 4H), 2.55 (m, 4H), 3.81 (s, 3H), 6.66 (s, 1H), 6.70 (d, 1H, J=7.5 Hz), 7.02 (d, 1H, J=7.5 Hz).

reactant | 2,5-dipropylphenol | 19.6 mmol, 3.50 g | C(CC)C1=C(C=C(C=C1)CCC)O | C12H18O
reactant | iodomethane | 58.8 mmol, 3.70 mL | IC | CH3I
reactant | sodium hydride | 39.2 mmol, 1.60 g | [H-].[Na+]
solvent | DMF | 65 mL | CN(C)C=O | C3H7NO
product | 2-Methoxy-1,4-dipropylbenzene | 3.70 g, 97% yield | COC1=C(C=CC(=C1)CCC)CCC | C13H20O
